US07737166B2
6-Bromo-4-cyano-7-fluoro-N,N,5-trimethyl-1,3-benzoxazole-2-carboxamide (I-127)
Under nitrogen atmosphere, trimethylaluminium (1.03 M n-hexane solution, 57.9 ml, 59.6 mmol) was dropwise added to a dichloromethane (100 ml) solution of dimethylamine hydrochloride (4.86 g, 59.6 mmol) with cooling in a water bath, taking 30 minutes, and stirred for 65 minutes at room temperature. Subsequently, a dichloromethane (30 ml) solution of ethyl 6-bromo-4-cyano-7-fluoro-5-methyl-1,3-benzoxazole-2-carboxylate (I-126) (6.50 g, 19.9 mmol) was dropwise added and stirred for 30 hours. After the reaction, aqueous 1 N hydrochloric acid solution was added to the reaction liquid with cooling with ice, followed by stirring at room temperature, and the reaction liquid was extracted with chloroform. Next, the obtained organic layers were combined, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography, and the eluate with dichloromethane/methanol (100:1, v/v) gave the entitled compound (3.10 g, 48%) as a pale yellow solid. The fraction containing impurities was recovered and purified twice in the same manner to obtain the entitled compound (362 mg, 591 mg), and 4.05 g (62%) of the entitled compound was obtained in total.

reactant | trimethylaluminium | 59.6 mmol, 1.03 M, 57.9 ml | C[Al](C)C
reactant | dimethylamine hydrochloride | 59.6 mmol, 4.86 g | Cl.CNC
reactant | ethyl 6-bromo-4-cyano-7-fluoro-5-methyl-1,3-benzoxazole-2-carboxylate | 19.9 mmol, 6.50 g | BrC1=C(C2=C(N=C(O2)C(=O)OCC)C(=C1C)C#N)F | C12H8BrFN2O3
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 6-Bromo-4-cyano-7-fluoro-N,N,5-trimethyl-1,3-benzoxazole-2-carboxamide | 3.10 g, 48% | BrC1=C(C2=C(N=C(O2)C(=O)N(C)C)C(=C1C)C#N)F | C12H9BrFN3O2
